US06342765B1
To a solution of methyl 4-methoxy-2-(4-fluorophenyl)benzoate (9.8 g; 0.029 mol) in methanol (75 ml) was added 2N aqueous sodium hydroxide solution (45 ml) and the mixture heated at reflux for 1.5 h. The reaction was cooled to ambient temperature, filtered and the filtrate concentrated in vacuo to remove the methanol. The residual aqueous phase was washed with diethyl ether, acidified to pH 1 with concentrated HCl and extracted with ethyl acetate. The organic extracts were dried (MgSO4) and the solvent removed in vacuo to give 4-methoxy-2-(4-fluorophenyl)benzoic acid as a white solid (7.7 g), which was used without further purification.

reactant | methyl 4-methoxy-2-(4-fluorophenyl)benzoate | 0.029 mol, 9.8 g | COC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C15H13FO3
reactant | sodium hydroxide | 2N, 45 ml | [OH-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
product | 4-methoxy-2-(4-fluorophenyl)benzoic acid | 7.7 g | COC1=CC(=C(C(=O)O)C=C1)C1=CC=C(C=C1)F | C14H11FO3
